US07241893B2
A solution of ethyl chloroacetate (20 g, 0.16 mol) and potassium thiocyanate (12.7 g, 0.13 mol) in ethanol (100 ml) was refluxed for 3 h. The solution was filtered and concentrated under reduced pressure to afford 18.7 g of thiocyanato-acetic acid ethyl ester (97%). A mixture of cyclopropylammonium acetate (0.50 g, 4.27 mmol) and thiocyanato-acetic acid ethyl ester (0.62 g, 4.27 mmol) was heated to 90° C. for 3 h, and left at rt overnight. The reaction mixture was partitioned between 6N HCl and dichloromethane. The layers were separated. The aqueous layer was made basic by the addition of 6N ammonium hydroxide, and then concentrated to dryness. The crude was triturated with dichloromethane and the solution separated from the solid by filtration. This solution was dried over sodium sulfate and concentrated to dryness. The crude was purified on a silica gel column with 100% ethyl acetate to afford 2-cyclopropylamino-thiazol-4-one (244 mg, 37%).

reactant | cyclopropylammonium acetate | 4.27 mmol, 0.50 g | C(C)(=O)[O-].C1(CC1)[NH3+]
reactant | thiocyanato-acetic acid ethyl ester | 4.27 mmol, 0.62 g | C(C)OC(CSC#N)=O | C5H7NO2S
product | 2-cyclopropylamino-thiazol-4-one | 244 mg, 37% | C1(CC1)NC=1SCC(N1)=O | C6H8N2OS
